US08247431B2
Step 4: Preparation of 3-amino-4,6-dibromo-pyridine-2-carboxylic acid
3-amino-4,6-dibromo-pyridine-2-carbonitrile (158 mg) was dissolved in concentrated sulfuric acid (1.5 mL) and stirred for 1 h at 100° C. The reaction mixture was cooled to room temperature and water (1.5 mL) was slowly added. The reaction mixture was warmed again to 100° C. and stirred at this temperature for 2 h. Water was added after cooling to room temperature, the pH was adjusted to −10 by addition of solid sodium bicarbonate and the aqueous solution was washed 2× with MTB-ether. The aqueous layer was then adjusted to pH ˜2 by addition of 2 M hydrochloric acid and extracted 3× with ethyl acetate. The combined organic layer was washed with brine, dried over magnesium sulfate and concentrated in vacuum to afford 123 mg of the title compound of the formula

reactant | 3-amino-4,6-dibromo-pyridine-2-carbonitrile | 158 mg | NC=1C(=NC(=CC1Br)Br)C#N | C6H3Br2N3
reactant | water | 1.5 mL | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | sulfuric acid | 1.5 mL | S(O)(O)(=O)=O | H2O4S
product | 3-amino-4,6-dibromo-pyridine-2-carboxylic acid | 123 mg | NC=1C(=NC(=CC1Br)Br)C(=O)O | C6H4Br2N2O2
